US07713994B2
To a suspension of tert-butyl [4-(4-formyl-piperidin-1-yl)-phenyl]carbamate (0.20 g, 0.66 mmol) in methanol (5 mL) is added N,N′-dimethyl-3-aminopyrrolidine (0.15 g, 1.3 mmol). The reaction mixture is stirred for 20 minutes and then a mixture of zinc chloride (53 mg) and sodium cyanoborohydride (50 mg) in methanol (2 mL) is added in a dropwise fashion. After stirring overnight at room temperature, the reaction mixture is diluted with water and extracted 3× with ethyl acetate. The combined extracts were washed once with saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to give tert-butyl [4-(4-{[methyl-(1-methyl-pyrrolidin-3-yl)-amino]-methyl}-piperidin-1-yl)-phenyl]-carbamate as a foam (0.27 g, 100%).

reactant | tert-butyl [4-(4-formyl-piperidin-1-yl)-phenyl]carbamate | 0.66 mmol, 0.20 g | C(=O)C1CCN(CC1)C1=CC=C(C=C1)NC(OC(C)(C)C)=O | C17H24N2O3
reactant | N,N′-dimethyl-3-aminopyrrolidine | 1.3 mmol, 0.15 g | CNC1CCN(C1)C | C6H14N2
reactant | sodium cyanoborohydride | 50 mg | C(#N)[BH3-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
solvent | methanol | 2 mL | CO | CH4O
solvent | water | O | H2O
catalyst | zinc chloride | 53 mg | [Cl-].[Zn+2].[Cl-]
product | tert-butyl [4-(4-{[methyl-(1-methyl-pyrrolidin-3-yl)-amino]-methyl}-piperidin-1-yl)-phenyl]-carbamate | 0.27 g, 100% | CN(C1CN(CC1)C)CC1CCN(CC1)C1=CC=C(C=C1)NC(OC(C)(C)C)=O | C23H38N4O2
